US05198449
3-(4-Fluorobenzoyl)-1-(2-naphthalenylmethyl)azetidine
Following the procedure of Preparation 9, the title compound is prepared from 2-bromomethylnaphthalene and 3-(4-fluorobenzoyl)azetidine.

reactant | 2-bromomethylnaphthalene | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | 3-(4-fluorobenzoyl)azetidine | FC1=CC=C(C(=O)C2CNC2)C=C1 | C10H10FNO
product | 3-(4-Fluorobenzoyl)-1-(2-naphthalenylmethyl)azetidine | FC1=CC=C(C(=O)C2CN(C2)CC2=CC3=CC=CC=C3C=C2)C=C1 | C21H18FNO
